US07402595B2
6-chloro-2-(4-methoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid
A mixture of 6-chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid (300 mg), 4-methoxybenzylamine (684 mg) and methanol (3.0 ml) was stirred at room temperature for 12 hrs. The reaction mixture was concentrated, and the residue was partitioned between 1N hydrochloric acid and ethyl acetate. The organic layer was dried over magnesium sulfate and concentrated under reduced pressure. Then, 4N hydrochloric acid ethyl acetate solution (3.0 ml) was added to the residue and the mixture was stirred for 12 hrs. at room temperature. The reaction mixture was concentrated under reduced pressure and dried to give the title compound (360 mg) as a pale-yellow powder.

reactant | 6-chloro-1-oxo-4-phenyl-1H-isochromen-3-carboxylic acid | 300 mg | ClC=1C=C2C(=C(OC(C2=CC1)=O)C(=O)O)C1=CC=CC=C1 | C16H9ClO4
reactant | 4-methoxybenzylamine | 684 mg | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | methanol | 3.0 ml | CO | CH4O
product | 6-chloro-2-(4-methoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid | 360 mg | ClC=1C=C2C(=C(N(C(C2=CC1)=O)CC1=CC=C(C=C1)OC)C(=O)O)C1=CC=CC=C1 | C24H18ClNO4
